Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left sided sensory changes, weakness 
 
Major Surgical or Invasive Procedure:
N/A 

 
History of Present Illness:
Ms. ___ is a ___ F w PMHx of CAD, HTN, and HLD who
presents to ___ ED after waking up with left hemibody 
numbness,
decreased hearing out of the left ear, and feeling of left leg
clumsiness. Last known well is 4AM on ___.

Last week, Ms. ___ flew from ___ to stay with her son and
daughter in law for 2 months. She sat in an aisle seat and got 
up
to use the bathroom several times. She denies any calf pain. Two
days ago, she "strained" her left arm picking up her grandchild.
She reports left sided neck pain, but that this is a chronic
problem for her.

Early this morning, when she woke to check on her grandson 
around
4AM, she reported being in her usual state of health - no
weakness, no numbness, no clumsiness, and normal hearing. When
she awoke again at 8AM, she had several new symptoms. She states
that the left corner of her mouth and left side of her tongue
felt "numb." Under the left eye felt "heavy and numb." The
hearing out of her left ear sounded muffled, "like when you've
been on a plane." She also noted numbness of her entire left arm
and left leg, ~70% of normal. She spoke with one of her 
daughters
on the phone, and the daughter felt that Ms. ___ speech
sounded slurred. She complained to her son and daughter in law
that her left leg was "dis-coordinated" while walking. For these
reasons, they brought her to the ___ ED for further 
evaluation.

Currently, she states that her symptoms are improving. She still
has some mild left sided sensory loss and hearing difficulty -
but it is now "98%" of normal. Her left leg continues to feel
somewhat dis-coordinated, but only when walking, and it seems
improved from this morning. She does not believe that her speech
is slurred.

On neurological ROS, she denies any confusion or language
difficulty. Family reports long standing ___ year) coughing with
initial intake of any solids or liquids. She denies weakness of
the left side. Denies difficulties with bowel or bladder.

On general ROS, she reports MSK strain of the left arm (as 
above)
and left side of the torso. She also has some chronic lower back
pain which was made worse by her recent flight. This morning, 
she
is having some cramping in her fingers and legs which is new 
(she
does daily yoga and has not had this problem before). No recent
illnesses. Good PO intake.

 
Past Medical History:
- CAD
  - s/p CABV ~ ___ years ago
- HTN
- HLD

 
Social History:
___
Family History:
Mother - deceased from "brain hemorrhage" at age ___
Brother - deceased from MI at age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
VS T: HR:64 BP:159/93 RR:16 SaO2:100
GEN - well appearing, well developed
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

___ Stroke Scale - Total [2]
1a. Level of Consciousness - 0
1b. LOC Questions - 0
1c. LOC Commands - 0
2. Best Gaze - 0
3. Visual Fields - 0
4. Facial Palsy - 1
5a. Motor arm, left - 0
5b. Motor arm, right - 0
6a. Motor leg, left - 0
6b. Motor leg, right - 0
7. Limb Ataxia - 0
8. Sensory - 1
9. Language - 0
10. Dysarthria - 0
11. Extinction and Neglect - 0

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x 3. Attention to examiner easily
attained and maintained. Family at bedsides assists with
translation. Recalls a coherent history. Structure of speech
demonstrates fluency with full sentences, and normal prosody. No
paraphasic errors. Intact repetition, naming, reading, and
comprehension. No evidence of apraxia or neglect.

CN - [II] PERRL 3->2 brisk. VF full to number counting. [III, 
IV,
VI] EOMI, no nystagmus. [V] Reports sensation "98%" of normal to
LT and PP over left hemiface. [VII] Very mild decreased
activation of L corner of the mouth, improved later in the
examination. [VIII] Subjectively decreased hearing out of L ear,
but no deficits to whispered numbers. [IX, X] Palate elevation
symmetric. No dysarthria. [XI] SCM/Trapezius strength ___
bilaterally. [XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No tremor or asterixis.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1] 
L  5      5     5     5     5    4+   5      5     5    5
R  5      5     5     5     5    4+   5      5     5    5

SENSORY - Reports "98%" of normal over LUE and LLE to PP and LT.
No extinction to DSS.

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 3      3      3      2        2
R 3      3      3      2        2
Plantar response mute bilaterally.

COORD - No dysmetria with finger to nose or heel-shin testing.
Good speed and intact cadence with rapid alternating movements. 

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Continues to feel subjectively
clumsy with the LLE.

DISCHARGE PHYSICAL EXAM 
Vitals: BP 130/70, HR 60, Spo2 97%RA
gen: NAD
CAD: RRR
Pulm: breathing comfortably on RA
GI:NT/ND
Extremities: no edema

Neuro: A&O x3. PERRLA, EOMI, language intact, no dysarthria, ___ 
strength throughout, sensation intact throughout, no dysmetria, 
gait deferred
 
Pertinent Results:
LABORATORY STUDIES

___ 06:23AM BLOOD Glucose-108* UreaN-10 Creat-0.7 Na-144 
K-3.7 Cl-106 HCO3-24 AnGap-18
___ 06:23AM BLOOD ALT-20 AST-21 LD(LDH)-193 CK(CPK)-306* 
AlkPhos-64 TotBili-0.4
___ 06:23AM BLOOD %HbA1c-6.0 eAG-126
___ 06:23AM BLOOD Triglyc-235* HDL-35 CHOL/HD-4.1 
LDLcalc-60
___ 06:23AM BLOOD TSH-1.5

******************
IMAGING STUDIES 

CTA H&N - ___
Periventricular hypodensities, greater occipitally and on the R,
c/w chronic microvascular disease. ?Old R pre-frontal gyrus
hypodensity.
Mild atherosclerotic disease of B/L carotid bifurcations and
siphons. Dominant L vertebral. Large vessels appear well patent.

MRI head w/o contrast ___. Focus of slow diffusion in the anterior inferior right pons 
extending into the superior portion of the right medullary 
pyramid is consistent with a late  acute infarct. 
2. Moderate bilateral white matter changes, suggestive of 
chronic small vessel ischemic disease. 
  
___ ___
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

Left shoulder xray ___
IMPRESSION:  
  
No acute osseous injury to the left shoulder or humerus. 
  
TTE:
The left atrium is elongated. No left atrial mass/thrombus seen 
(best excluded by transesophageal echocardiography). No atrial 
septal defect or patent foramen ovale is seen by 2D, color 
Doppler or saline contrast with maneuvers. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. No masses or thrombi are 
seen in the left ventricle. Right ventricular chamber size and 
free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is a small 
pericardial effusion. The effusion is echo dense, consistent 
with blood, inflammation or other cellular elements. There are 
no echocardiographic signs of tamponade. 

 IMPRESSION: Suboptimal apical image quality. Normal 
biventricular chamber size and systolic function. No pathologic 
valvular flow. No interatrial communication seen on aggitated 
saline contrast injection with maneuvers. Small circumferential 
echodense pericardial effusion versus fat pad in the absence of 
2D echo evidence of tamponade. Mildly dilated ascending aorta 
and arch

 
Brief Hospital Course:
Ms. ___ is a ___ w PMHx of CAD, HTN, and HLD who 
presented to ___ ED after waking up with left hemibody 
numbness, decreased hearing out of the left ear, and feeling of 
left leg clumsiness. Last known well is 4AM on ___ - and as 
such, she presents outside the window for treatment with tpA. 

Her history was significant for acute onset left sided sensory 
loss, decreased hearing out of the left ear, and left sided 
clumsiness - all of which were somewhat improved by the time of 
presentation. In fact, Ms. ___ admission examination was 
essentially non-focal.  However, Ms. ___ constellation of 
symptoms is difficult to place, and the history raised concern 
for L AICA infarct given unilateral hearing loss, ipsilateral 
gait ataxia and facial symptoms. 

She was admitted to the Stroke service for further treatment. On 
MRI of the brain, she was found to have a right pontomedullary 
ischemic infarction that was consistent with her symptoms.  

The stroke was likely due to posterior circulation embolism. 
Given the history of long flight, there was concern for 
paradoxical embolism. She had a TTE to evaluate for PFO which 
was unremarkable. She had bilateral ___ venous dopplers which 
were negative for DVT. Stroke risk factors included LDL 60, A1c 
6.0. She was continued on her home aspirin and statin. Home 
mebicard was held while in hospital to allow for permissive 
hypertension.  Telemetry monitoring revealed no evidence of 
arrythmia. Patient was able to ambulate independently, evaluated 
by ___ and cleared for home without services. She was discharged 
with ___ of heart monitor. She was discharged on atorvastatin 
and Lopressor. 

*****************
TRANSITIONAL ISSUES: 
[ ] ___ of hearts monitoring as outpatient for paroxysmal 
atrial fibrillation

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL =60 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Diclofenac Sodium ___ 25 mg PO Q8H:PRN MSK pain 
3. nebicard ( unknown dose) 
 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Cetirizine 10 mg PO DAILY  
3.  Metoprolol Tartrate 12.5 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Diclofenac Sodium ___ 25 mg PO Q8H:PRN MSK pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right pontomedullary ischemic infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of left sided weakness and 
sensory changes resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
-high blood pressure
-high cholesterol
-having a history of heart disease
-being on a long flight recently 

We are changing your medications as follows:
atorva statin 40mg every night
metoprolol tartate 12.5mg twice daily 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

***Instructions for long international flights****
To reduce the risk of blood clots,
- Continue to take aspirin as directed
- wear compression stockings
- get up and walk around the cabin every ___ hours

In addition, you will be discharged with a Holter monitor to 
check for irregular heart rhythms.

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___